US04499220
Preparation of bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate/butyl vinyl ether copolymer
Bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate 2.1 g, butyl vinyl ether 0.47 g, dicumyl peroxide 0.026 g and toluene 5 ml were stirred at 110° C. for ten hours. The solvent was distilled off and a glassy solid was obtained. (Stabilizer No. III)

reactant | Bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | 2.1 g | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C
reactant | butyl vinyl ether | 0.47 g | C(=C)OCCCC | C6H12O
reactant | dicumyl peroxide | 0.026 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate butyl vinyl ether | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C.C(=C)OCCCC | InChI=1S/C24H42N2O4.C6H12O/c1-21(2)11-15(12-22(3,4)25(21)9)17(19(27)28)18(20(29)30)16-13-23(5,6)26(10)24(7,8)14-16;1-3-5-6-7-4-2/h15-16H,11-14H2,1-10H3,(H,27,28)(H,29,30);4H,2-3,5-6H2,1H3/p-2/b18-17+;
